* Applied Vacuum Engineering (AVE) - SPICE Netlist
* Element: Boron-11 (Z=5, A=11)
* Auto-generated topological mutual impedance array
* Nodes: 11



* -----------------------------------------------------------------
* NUCLEON (Baseline 6^3_2 Topological Defect)
* -----------------------------------------------------------------
.SUBCKT NUCLEON IN OUT
L_CORE IN OUT 1uH
C_CORE IN OUT 1pF
.ENDS NUCLEON



* -----------------------------------------------------------------
* MACROSCOPIC TOPOLOGY (Nucleon Array)
* -----------------------------------------------------------------
V_STIM NODE_1 0 AC 1 PULSE(0 100k 10n 1n 1n 50n 100n)

X_NUC_1 NODE_1 0 NUCLEON
X_NUC_2 NODE_2 0 NUCLEON
X_NUC_3 NODE_3 0 NUCLEON
X_NUC_4 NODE_4 0 NUCLEON
X_NUC_5 NODE_5 0 NUCLEON
X_NUC_6 NODE_6 0 NUCLEON
X_NUC_7 NODE_7 0 NUCLEON
X_NUC_8 NODE_8 0 NUCLEON
X_NUC_9 NODE_9 0 NUCLEON
X_NUC_10 NODE_10 0 NUCLEON
X_NUC_11 NODE_11 0 NUCLEON


* -----------------------------------------------------------------
* SPATIAL MUTUAL INDUCTANCE (K-FACTORS)
* -----------------------------------------------------------------
K_1 X_NUC_1.L_CORE X_NUC_2.L_CORE 0.207973
K_2 X_NUC_1.L_CORE X_NUC_3.L_CORE 0.207973
K_3 X_NUC_1.L_CORE X_NUC_4.L_CORE 0.207973
K_4 X_NUC_1.L_CORE X_NUC_5.L_CORE 0.055908
K_5 X_NUC_1.L_CORE X_NUC_6.L_CORE 0.046928
K_6 X_NUC_1.L_CORE X_NUC_7.L_CORE 0.055623
K_7 X_NUC_1.L_CORE X_NUC_8.L_CORE 0.048421
K_8 X_NUC_1.L_CORE X_NUC_9.L_CORE 0.045335
K_9 X_NUC_1.L_CORE X_NUC_10.L_CORE 0.051612
K_10 X_NUC_1.L_CORE X_NUC_11.L_CORE 0.044036
K_11 X_NUC_2.L_CORE X_NUC_3.L_CORE 0.207973
K_12 X_NUC_2.L_CORE X_NUC_4.L_CORE 0.207973
K_13 X_NUC_2.L_CORE X_NUC_5.L_CORE 0.050609
K_14 X_NUC_2.L_CORE X_NUC_6.L_CORE 0.058185
K_15 X_NUC_2.L_CORE X_NUC_7.L_CORE 0.046357
K_16 X_NUC_2.L_CORE X_NUC_8.L_CORE 0.049928
K_17 X_NUC_2.L_CORE X_NUC_9.L_CORE 0.051283
K_18 X_NUC_2.L_CORE X_NUC_10.L_CORE 0.043418
K_19 X_NUC_2.L_CORE X_NUC_11.L_CORE 0.048264
K_20 X_NUC_3.L_CORE X_NUC_4.L_CORE 0.207973
K_21 X_NUC_3.L_CORE X_NUC_5.L_CORE 0.044379
K_22 X_NUC_3.L_CORE X_NUC_6.L_CORE 0.047168
K_23 X_NUC_3.L_CORE X_NUC_7.L_CORE 0.051723
K_24 X_NUC_3.L_CORE X_NUC_8.L_CORE 0.044290
K_25 X_NUC_3.L_CORE X_NUC_9.L_CORE 0.056053
K_26 X_NUC_3.L_CORE X_NUC_10.L_CORE 0.050510
K_27 X_NUC_3.L_CORE X_NUC_11.L_CORE 0.051295
K_28 X_NUC_4.L_CORE X_NUC_5.L_CORE 0.047823
K_29 X_NUC_4.L_CORE X_NUC_6.L_CORE 0.046808
K_30 X_NUC_4.L_CORE X_NUC_7.L_CORE 0.045038
K_31 X_NUC_4.L_CORE X_NUC_8.L_CORE 0.056088
K_32 X_NUC_4.L_CORE X_NUC_9.L_CORE 0.046113
K_33 X_NUC_4.L_CORE X_NUC_10.L_CORE 0.052890
K_34 X_NUC_4.L_CORE X_NUC_11.L_CORE 0.055025
K_35 X_NUC_5.L_CORE X_NUC_6.L_CORE 0.038749
K_36 X_NUC_5.L_CORE X_NUC_7.L_CORE 0.041634
K_37 X_NUC_5.L_CORE X_NUC_8.L_CORE 0.042395
K_38 X_NUC_5.L_CORE X_NUC_9.L_CORE 0.026701
K_39 X_NUC_5.L_CORE X_NUC_10.L_CORE 0.033001
K_40 X_NUC_5.L_CORE X_NUC_11.L_CORE 0.026158
K_41 X_NUC_6.L_CORE X_NUC_7.L_CORE 0.029515
K_42 X_NUC_6.L_CORE X_NUC_8.L_CORE 0.036462
K_43 X_NUC_6.L_CORE X_NUC_9.L_CORE 0.042452
K_44 X_NUC_6.L_CORE X_NUC_10.L_CORE 0.024904
K_45 X_NUC_6.L_CORE X_NUC_11.L_CORE 0.033001
K_46 X_NUC_7.L_CORE X_NUC_8.L_CORE 0.026891
K_47 X_NUC_7.L_CORE X_NUC_9.L_CORE 0.035106
K_48 X_NUC_7.L_CORE X_NUC_10.L_CORE 0.042452
K_49 X_NUC_7.L_CORE X_NUC_11.L_CORE 0.026701
K_50 X_NUC_8.L_CORE X_NUC_9.L_CORE 0.026891
K_51 X_NUC_8.L_CORE X_NUC_10.L_CORE 0.036462
K_52 X_NUC_8.L_CORE X_NUC_11.L_CORE 0.042395
K_53 X_NUC_9.L_CORE X_NUC_10.L_CORE 0.029515
K_54 X_NUC_9.L_CORE X_NUC_11.L_CORE 0.041634
K_55 X_NUC_10.L_CORE X_NUC_11.L_CORE 0.038749


* -----------------------------------------------------------------
* SIMULATION DIRECTIVES
* -----------------------------------------------------------------
* Transient Analysis: 100kV Step Pulse (1ns rise) to test dielectric rupture limits
.TRAN 0.1n 200n
* Broadband AC sweep: 1 MHz to 1 GHz to ping macro-resonance Q-factors
.AC DEC 100 1MEG 1G
.OPTIONS METHOD=GEAR

.END
